US05254573
Aminobenzamidine di-HCl (25 g, 120 mmol), which is commercially available particularly from Aldrich, was added to dry DMF (100 ml). To this solution dry pyridine (100 ml) and succinic anhydride (12 g, 120 mmol) followed by dimethylaminopyridine (DMAP, 1.5 g, 12.2 mmol) were added. The product precipitated after heating for 1/2 h at 100° C. The product was filtered, washed with water, acetonitrile, and ether. The white solid was suspended in dioxane, 4N HCl in dioxane (100 ml) was added and the suspension was stirred for 1 h, filtered and dried in a desiccator to give 28 g, 88% of 4-[[4-(aminoiminomethyl)phenyl]amino]-4-oxobutanoic acid as a white yellow solid which decomposes between 270 and 290° C.

reactant | Aminobenzamidine di-HCl | 120 mmol, 25 g | Cl.Cl.NC1=C(C(=N)N)C=CC=C1
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | succinic anhydride | 120 mmol, 12 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | dimethylaminopyridine | 12.2 mmol, 1.5 g | CN(C)C1=NC=CC=C1 | C7H10N2
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 4-[[4-(aminoiminomethyl)phenyl]amino]-4-oxobutanoic acid | 28 g, 88% | NN=CC1=CC=C(C=C1)NC(CCC(=O)O)=O | C11H13N3O3
